US07589232B2
Step a) Formation of N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)cyclohexanecarboxamide
The titled compound was prepared following the procedure M using 7-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one and cyclohexanecarbonyl chloride as an orange oil (52%). 1H NMR (CDCl3, 300 MHz) δ 7.92 (d, J=8.3 Hz, 1H), 7.41 (m, 4H), 7.14 (m, 4H), 6.77 (m, 0.5H), 6.75 (m, 0.5H), 6.57 (m, 1H), 4.87 (s, 2H), 2.60 (t, J=7.5 Hz, 2H), 2.2 (m, 1H), 1.71 (s, 6H), 1.69-1.52 (m, 8H), 1.39-0.97 (m, 6H), 0.91 (t, J=7.3 Hz, 3H). M+ (ESI): 550.1. HPLC, Rt: 6.35 min (Purity: 97.5%).

reactant | 7-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC=2C=CC3=C(OC(OC3=O)(C)C)C2)C=C1 | C29H29NO3
reactant | cyclohexanecarbonyl chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
product | N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-7-yl)cyclohexanecarboxamide | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)C2CCCCC2)C=2C=CC3=C(OC(OC3=O)(C)C)C2)C=C1 | C36H39NO4
